US08012976B2
4-(Diethoxymethyl)benzaldehyde
A mixture of terephthalaldehyde (10 g, 74.55 mmol), ammonium chloride (160 mg, 3.0 mmol) in ethanol (10.3 g, 223.6 mmol) was added dropwise triethoxymethane (12.15 g, 82 mmol) at 0° C. After the addition, the mixture was stirred at room temperature overnight. The mixture was concentrated, the residue was purified by silica gel chromatography to give the title compound (7.0 g, yield 50%) as a white solid. LC-MS (ESI) m/z: 209 (M+1)+.

reactant | terephthalaldehyde | 74.55 mmol, 10 g | C(C1=CC=C(C=O)C=C1)=O | C8H6O2
reactant | ethanol | 223.6 mmol, 10.3 g | C(C)O | C2H6O
reactant | triethoxymethane | 82 mmol, 12.15 g | C(C)OC(OCC)OCC | C7H16O3
catalyst | ammonium chloride | 3.0 mmol, 160 mg | [Cl-].[NH4+]
product | 4-(Diethoxymethyl)benzaldehyde | 7.0 g, yield 50% | C(C)OC(C1=CC=C(C=O)C=C1)OCC | C12H16O3
